US07459451B2
A mixture of methyl 3-cyclohexyl-2-(cyclopropylcarbonyl)acrylate (6.01 g) and 1-ethyl-1H-pyrazol-5-amine (2.97 mg) in tert-BuOH (60 ml) was refluxed for 22 hours. The solvent was evaporated off, and the residue was dissolved in dioxane (60 ml). To the mixture was added 4,5-dichloro-3,6-dioxo-1,4-cyclohexadiene-1,2-dicarbonitrile (5.77 g). The mixture was stirred for 6 h at room temperature. The mixture was filtered off, and the filtrate was evaporated. The residue was dissolved in EtOAc (20 ml), and to the solution was added silicagel, followed by hexanes (100 ml). The mixture was filtered, and filter cake was washed with EtOAc-hexanes (1-5). The filtrate was evaporated off. Silicagel column chromatography (EtOAc-hexanes, a linear gradient of EtOAc from 0 to 15%) afforded methyl 4-cyclohexyl-6-cyclopropyl-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate as a colorless oil, which was crystallized upon standing (4.36 g).

reactant | methyl 3-cyclohexyl-2-(cyclopropylcarbonyl)acrylate | 6.01 g | C1(CCCCC1)C=C(C(=O)OC)C(=O)C1CC1 | C14H20O3
reactant | 1-ethyl-1H-pyrazol-5-amine | 2.97 mg | C(C)N1N=CC=C1N | C5H9N3
solvent | tert-BuOH | 60 ml | C(C)(C)(C)O | C4H10O
product | methyl 4-cyclohexyl-6-cyclopropyl-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | C1(CCCCC1)C1=C2C(=NC(=C1C(=O)OC)C1CC1)N(N=C2)CC | C19H25N3O2
